US07176242B2
Methyl 3-[({(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}amino)carbonyl]benzoate
To methyl hydrogen isophthalate (1.0 g, 5.6 mmol) in DMF/chloroform (1:2, 15 mL) is added diisopropylethylamine (3.9 mL, 22 mmol), HATU (2.5 g, 6.7 mmol), then (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method of EXAMPLE SP-272 (2.5 g, 6.1 mmol). The reaction is stirred 1 h at room temperature. The reaction is partitioned between ethyl acetate and water. The organic layer is washed with 1 N hydrochloric acid, saturated sodium bicarbonate, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 8% methanol/chloroform) gives the title compound. ESI MS m/z 497.3 [M+H]+.

reactant | methyl hydrogen isophthalate | 5.6 mmol, 1.0 g | C(C1=CC(C(=O)O)=CC=C1)(=O)OC | C9H8O4
reactant | diisopropylethylamine | 22 mmol, 3.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 6.7 mmol, 2.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | DMF chloroform | 15 mL | CN(C)C=O.C(Cl)(Cl)Cl
product | Methyl 3-[({(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}amino)carbonyl]benzoate | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C=2C=C(C(=O)OC)C=CC2)C=C(C1)F | C28H30F2N2O4
